US05061793
To 1.99 g (0.0042 mol) of 3,5-bis(t-butyldimethylsiloxy)-1-methanesulfonyloxy-2-desoxy-2,2-difluororibose in 35 ml of dry 1,2-dichloroethane was added 2.08 g (0.0046 mol) of tris-trimethylsilyl-5-iodocytosine followed by 1.11 g (0.005 mol) of trifluoromethanesulfonyloxytrimethylsilane. The reaction mixture was refluxed for about 16 hours under a nitrogen atmosphere and cooled to room temperature. Five milliliters of methanol were added to the reaction mixture and the mixture was stirred for an additional 30 minutes. The mixture was filtered and the precipitated solid was collected by filtration. The filtrate was evaporated to dryness under reduced pressure, and the resulting residue was dissolved in 20 ml of dichloromethane saturated with anhydrous hydrogen bromide. This mixture was stirred for about 3 hours. The volatiles were removed in vacuo at 45° C. The residue was dissolved in 15 ml of water, neutralized to pH 7-8 with 10% sodium bicarbonate, and the resulting solution was washed once with 10 ml of ethyl acetate. The aqueous layer was chromatographed on a Whatman Prep ODS-3 reverse phase column in 2.0 ml portions using water/methanol (9:1, v:v) to afford 30 mg of 1-(4-amino-5-iodo-2-oxo-1H-pyrimidin-1-yl)-2-desoxy-2,2-difluororibose.

reactant | 3,5-bis(t-butyldimethylsiloxy)-1-methanesulfonyloxy-2-desoxy-2,2-difluororibose | 0.0042 mol, 1.99 g | O([Si](C)(C)C(C)(C)C)[C@@](C(C(=O)OS(=O)(=O)C)(F)F)(O)[C@H](O)C(O)O[Si](C)(C)C(C)(C)C | C18H38F2O9SSi2
reactant | tris-trimethylsilyl-5-iodocytosine | 0.0046 mol, 2.08 g | C[Si](C)(C)N(C1=NC(N(C=C1I)[Si](C)(C)C)=O)[Si](C)(C)C | C13H28IN3OSi3
reactant | trifluoromethanesulfonyloxytrimethylsilane | 0.005 mol, 1.11 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | methanol | Five milliliters | CO | CH4O
solvent | 1,2-dichloroethane | 35 ml | ClCCCl | C2H4Cl2
product | 1-(4-amino-5-iodo-2-oxo-1H-pyrimidin-1-yl)-2-desoxy-2,2-difluororibose | 30 mg | NC1=NC(N(C=C1I)C(=O)C([C@H](O)[C@H](O)CO)(F)F)=O | C9H10F2IN3O5
